US05196593
Thionyl chloride, 6.0 g (50 mmol) was added to a solution of 3.50 g (15 mmol) 2,3-difluoro-5-(trifluoromethyl) benzoic acid in 10 mL dimethylformamide. The reaction mixture was heated to 75° C. for 2 hours, cooled to room temperature and carefully added to 25 mL of ice cold ammonium hydroxide. The mixture was cooled to 0° C. and the solid product filtered, washed with water and dried to yield 3.00 g (86%) of 2,3-difluoro-5-(trifluoromethyl)benzamide m.p. 128°-130° C.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2,3-difluoro-5-(trifluoromethyl) benzoic acid | 15 mmol, 3.50 g | FC1=C(C(=O)O)C=C(C=C1F)C(F)(F)F | C8H3F5O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2,3-difluoro-5-(trifluoromethyl)benzamide | 3.00 g, 86% | FC1=C(C(=O)N)C=C(C=C1F)C(F)(F)F | C8H4F5NO
